US03954757
A mixture of 5.85 g indole in 50 ml methanol and 5.8 g 1-methyl-2-imidazolidinethione in 100 ml methanol is treated with a solution of 12.7 g of iodine and 25 g potassium iodide in 100 ml water. The mixture is stirred for 2 hours at room temperature, the clear solution is concentrated in vacuo to one third of the original volume and cooled. The solid which separates is filtered off and recrystallized from a mixture of methanol and ethyl acetate to give 3-(1-methyl-2-imidazolin-2-ylthio)-indole hydriodide melting at 215°-216°.

reactant | indole | 5.85 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-methyl-2-imidazolidinethione | 5.8 g | CN1C(NCC1)=S | C4H8N2S
reactant | iodine | 12.7 g | II | I2
reactant | potassium iodide | 25 g | [I-].[K+]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 3-(1-methyl-2-imidazolin-2-ylthio)-indole hydriodide | I.CN1C(=NCC1)SC1=CNC2=CC=CC=C12 | InChI=1S/C12H13N3S.HI/c1-15-7-6-13-12(15)16-11-8-14-10-5-3-2-4-9(10)11;/h2-5,8,14H,6-7H2,1H3;1H
